* source PRE-AMP-DISCRET
.EXTERNAL INPUT +15V
.EXTERNAL INPUT -15V
R_R1         -15V N14894  806 TC=0,0 
R_R2         -15V N14890  806 TC=0,0 
R_R3         0 N14847  10k TC=0,0 
C_C1         N14836 N39799  3.3u  TC=0,0 
V_V1         0 -15V 15Vdc
V_V2         +15V 0 15Vdc
R_R4         N14925 N14933  80.6 TC=0,0 
R_R5         N14921 N14933  80.6 TC=0,0 
R_R6         N15453 +15V  140 TC=0,0 
R_R7         0 N24191  10k TC=0,0 
V_V3         N14836 0  AC 1V
+SIN 0V 0V 1kHz 0 0 0
Q_Q8         N41418 N14894 N22849 BC850C 
Q_Q9         N41452 N23175 N15839 BC860C 
R_R9         0 N15626  10k TC=0,0 
C_C3         0 0  100u  TC=0,0 
R_R10         N15626 N15877  10k TC=0,0 
R_R12         N15839 +15V  ¨249 TC=0,0 
C_C4         N15626 N15877  8.2p  TC=0,0 
R_R13         -15V N22849  249 TC=0,0 
R_R15         N23087 +15V  806 TC=0,0 
R_R14         N23175 +15V  806 TC=0,0 
R_R16         N23551 N23449  80.6 TC=0,0 
R_R17         N23551 N23465  80.6 TC=0,0 
R_R18         -15V N24034  140 TC=0,0 
R_R19         N24000 0  10k TC=0,0 
R_R22         N15877 N25617  47 TC=0,0 
R_R23         0 N25617  47k TC=0,0 
X_U1         N23449 N14847 N23175 BCM847DS
X_U2         N14921 N15626 N14890 BCM857DS
X_U3         N23465 N15626 N23087 BCM847DS
X_U4         N14925 N14847 N14894 BCM857DS
X_U7         N15453 N24191 N14933 BCM857DS
X_U8         +15V N15453 N24191 BCM857DS
X_U11         N24034 N24000 N23551 BCM847DS
X_U12         -15V N24034 N24000 BCM847DS
R_R28         N39799 N14847  470 TC=0,0 
C_C6         0 N14847  33p  TC=0,0 
R_R29         N41448 N41452  390 TC=0,0 
R_R30         N41418 N41422  390 TC=0,0 
X_R31         N41422 N41422 N41448 POT PARAMS: SET=0.35 VALUE=10k
R_R32         N41556 N41452  10k TC=0,0 
C_C7         0 N41556  150p  TC=0,0 
R_R33         N41418 N41663  10k TC=0,0 
C_C8         N41663 0  150p  TC=0,0 
Q_Q10         N41452 N41448 N41846 BC550C 
Q_Q11         N41418 N41422 N41846 BC560C 
X_Q13         -15V N41418 N42225 awbbc327_40 PARAMS:                           
+                  
X_Q14         +15V N41452 N42256 awbbc337_40 PARAMS:                           
+                  
R_R34         N15877 N42256  10 TC=0,0 
R_R35         N42225 N15877  10 TC=0,0 
C_C9         N41418 N41452  1uF  TC=0,0 
R_R37         N46364 N14847  392k TC=0,0 
Q_Q15         N46364 N48936 N49029 BC850C 
X_U13         N50679 N49179 +15V -15V N48940 OPA188
R_R101         N48936 N48940  27k TC=0,0 
R_R102         -15V N48936  4.7k TC=0,0 
R_R103         N49010 N49029  100k TC=0,0 
R_R104         N46364 N15626  392k TC=0,0 
R_R105         -15V N49010  1k TC=0,0 
C_C10         N48940 N49179  2.2u  TC=0,0 
R_R106         0 N49179  475k TC=0,0 
D_D1         N50679 0 D1N4148_1 
D_D2         0 N50679 D1N4148_1 
C_C11         0 N50679  2.2u  TC=0,0 
R_R107         N15877 N50679  475k TC=0,0 
